US05308830
Cyclopropylcarbinol (27.4 g; 0.373 mol) and methanesulfonyl chloride (47.56 g; 0.407 mol) in dry ether (250 ml) was cooled to -20° C. under dry nitrogen. Triethylamine (59 ml; 0.42 mol) is added dropwise over 45 min with external cooling so that the reaction temperature remained below -15° C. The reaction mixture was allowed to warm to room temperature over 2 h and then filtered. The solid material is washed with ether. The solutions were combined and evaporated, to afford crude cyclopropylmethyl methanesulfonate (58.36 g) as a pale yellow liquid, which was used without further purification. NMR - d(CDCl3 ; 60 MHz) 0.3-1.5 (5H, m), 3.0 (3H, s) and 4.0 (2H, d, J=7 Hz).

reactant | Cyclopropylcarbinol | 0.373 mol, 27.4 g | C1(CC1)CO | C4H8O
reactant | methanesulfonyl chloride | 0.407 mol, 47.56 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Triethylamine | 0.42 mol, 59 ml | C(C)N(CC)CC | C6H15N
solvent | ether | 250 ml | CCOCC | C4H10O
product | cyclopropylmethyl methanesulfonate | 58.36 g | CS(=O)(=O)OCC1CC1 | C5H10O3S
